US09359362B2
(rac)-7-(4-Cyanophenyl)-2-methoxy-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon protective gas, (rac)-7-(4-cyanophenyl)-2-methoxy-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (50 mg, 171 μmol) was stirred in abs. dichloromethane (7 ml) with molecular sieve (0.5 g, 4 Å) for 1 h. 3-(Trifluoromethyl)phenylboronic acid (97 mg, 513 μmol, 3 eq.), anhydrous copper(II) acetate (93 mg, 513 μmol, 3 eq.), abs. pyridine (8 ml) and triethylamine (72 μl, 513 μmol, 3 eq.) were then added, and the mixture was stirred at RT for 48 h. More anhydrous copper(II) acetate (31 mg, 171 μmol, 1 eq.) and 2,6-lutidine (60 μl, 513 μmol, 3 eq.) were then added, and the mixture was stirred under an atmosphere of dry air at RT for a further 7 d. The reaction mixture was then concentrated to dryness. The residue was suspended in ethyl acetate (10 ml) and filtered. The filtrate was washed with water (5 ml) and saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by preparative HPLC (Reprosil C18 column, 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The brown solid obtained in this manner was decolorized by filtration through a small silica gel cartridge using a mobile phase mixture of cyclohexane and ethyl acetate (2:1) and then lyophilized. The product was obtained as a solid (10.8 mg, 15% of theory).

reactant | (rac)-7-(4-cyanophenyl)-2-methoxy-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 171 μmol, 50 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)OC)C)C#N | C15H12N6O
reactant | 3-(Trifluoromethyl)phenylboronic acid | 513 μmol, 97 mg, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 513 μmol, 72 μl, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2,6-lutidine | 513 μmol, 60 μl, 3 eq. | N1=C(C=CC=C1C)C | C7H9N
catalyst | copper(II) acetate | 513 μmol, 93 mg, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 171 μmol, 31 mg, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (rac)-7-(4-Cyanophenyl)-2-methoxy-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)OC)C2=CC(=CC=C2)C(F)(F)F)C)C#N | C22H15F3N6O
